US06956052B2
To a stirring solution of 1-[4-(aminosulfonyl)phenyl]-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (2967 mg, 5.7 mmol) in THF (120 mL) was added DMAP (348 mg, 2.8 mmol), then tri-ethyl amine (0.95 mL, 6.8 mmol), followed by acetic anhydride (1.62 mL, 17.1 mmol). The reaction mixture was stirred at room temperature for overnight and then concentrated. To the residue was added 5% aq. NaHCO3 (100 mL). All compounds were dissolved. The aq. Layer was washed with EA (100 mL×2), CH2Cl2 (100 mL). The aq. layer was separated. To the aq. Layer was added 1N HCl to pH=6. A white precipitate was formed. It was filtered and washed with ether to give a white solid. The solid was dried under reduced pressure at 45° C. to give 1-{4-[(acetylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (2255.4 mg, 70%).

reactant | 1-[4-(aminosulfonyl)phenyl]-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 5.7 mmol, 2967 mg | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C25H20ClN5O4S
reactant | tri-ethyl amine | 6.8 mmol, 0.95 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 17.1 mmol, 1.62 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 120 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 2.8 mmol, 348 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-{4-[(acetylamino)sulfonyl]phenyl}-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 2255.4 mg, 70% | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C27H22ClN5O5S
